US07049318B2
3-(2,6-Dichloro-benzylamino)-9-(2-hydroxy-4-methyl-pentyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
To a solution of 3-amino-9-(2-hydroxy-4-methyl-pentyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (100 mg, 0.29 mmol) and 2,6-dichlorobenzaldehyde (130 mg, 0.74 mmol) in 1 mL each of HOAc and CH2Cl2 was added NaBH(OAc)3 (110 mg, 0.52 mmol). The mixture was stirred at 40° C. for 50 min before a second portion of NaBH(OAc)3 (110 mg) was added. After a total of 2 h, the mixture was quenched with NaHCO3 (5 g) in H2O (15 mL) slowly and was allowed to stir over night at room temperature. Partition between CH2Cl2 and H2O followed by extraction with CH2Cl2 afforded the organic residue that was purified on silica (0–5% MeOH in DCM) to yield the desired product as an yellow foam. M+1 503.

reactant | 3-amino-9-(2-hydroxy-4-methyl-pentyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.29 mmol, 100 mg | NC1=C(N=C2N(C1=O)CCCN2CC(CC(C)C)O)C2=CC=NC=C2 | C18H25N5O2
reactant | 2,6-dichlorobenzaldehyde | 0.74 mmol, 130 mg | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | NaBH(OAc)3 | 0.52 mmol, 110 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 110 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(2,6-Dichloro-benzylamino)-9-(2-hydroxy-4-methyl-pentyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | ClC1=C(CNC2=C(N=C3N(C2=O)CCCN3CC(CC(C)C)O)C3=CC=NC=C3)C(=CC=C1)Cl | C25H29Cl2N5O2
